US09428510B2
A solution of 362 mg (1.05 eq) of potassium hydroxide in 10 mL of ethanol is added, under nitrogen, to a solution of 698 μL (6.16 mmol) of 2,4-difluorobenzenethiol in 30 mL of ethanol. The reaction medium is stirred at room temperature for 15 minutes and then cooled in ice before adding a solution of 1.015 g (0.95 eq) of 2,6-dichloronicotinonitrile in 30 mL of ethanol. The reaction medium is stirred for 2 hours at 0-5° C. 63 mL of a 0.1N HCl solution is added to stop the reaction. Water is added and the product is extracted with ethyl acetate. The organic phase is dried on anhydrous magnesium sulfate, filtered and evaporated. The residue is purified by silica gel chromatography (eluent: cyclohexane/ethyl acetate 94:6) to yield 1.09 g (66%) of 2-chloro-6-(2,4-difluorophenylthio)-nicotinonitrile in the form of a white solid.

reactant | potassium hydroxide | 362 mg, 1.05 eq | [OH-].[K+]
reactant | 2,4-difluorobenzenethiol | 6.16 mmol, 698 μL | FC1=C(C=CC(=C1)F)S | C6H4F2S
reactant | 2,6-dichloronicotinonitrile | 1.015 g, 0.95 eq | ClC1=C(C#N)C=CC(=N1)Cl | C6H2Cl2N2
reactant | HCl | 0.1N | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | Water | O | H2O
product | 2-chloro-6-(2,4-difluorophenylthio)-nicotinonitrile | 1.09 g, 66% | ClC1=C(C#N)C=CC(=N1)SC1=C(C=C(C=C1)F)F | C12H5ClF2N2S
